Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
aspirin / anesthesia/propofol / budesonide / neomycin / 
ketoconazole / hydrocortisone / Nizoral
 
Attending: ___
 
Chief Complaint:
strange sensation
and left facial weakness.
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old woman with a PMH of hypertension,
hyperlipidemia, prediabetes presenting with a strange sensation
and left facial weakness.

History is obtained from the patient and her daughter, an
ophthalmologist, at the bedside.

Last known well was initially reported to be 18:15 on ___
because patient reported that as the time of symptom onset.  Her
daughter, patient's husband was with the patient at the time but
it is unclear whether there was any acute change at that time. 
He
was not sure about facial asymmetry or when it started though 
the
daughter asked specifically.  So last known well was likely the
night of ___ when the daughter last saw patient.

Per patient, she was not feeling well since the morning today. 
She had fatigue and generalized weakness.  She thought she just
needed to stay active so she went to ___ then made some
food.  Her stomach felt unwell so she took some famotidine. 
Around 6:15 ___, she was not feeling well and felt a strange
sensation in her left face just lateral to her mouth.  She felt
that it was harder to move her left lower face and she felt like
she was talking with just the right side of her mouth.  She 
often
feels unwell and she usually takes her blood sugar and blood
pressure.  Her fingerstick glucose was 111.  Her blood pressure
was 192/90.  Patient says it has never been that high, so she
called her daughter and came to the hospital.

Patient often has large fluctuations in her blood pressure. 
Extensive work-up with her cardiologist and endocrinologist in
___ have been negative.  She has had to 24-hour urine
collections presumably for metanephrines which were negative. 
Daughter says that her norepinephrine levels were slightly high.

ROS: 
On neurological review of systems, the patient denies headache,
confusion, difficulties producing or comprehending speech, loss
of vision, blurred vision, diplopia, dysarthria, dysphagia,
lightheadedness, vertigo, tinnitus or hearing difficulty. Denies
other focal weakness, numbness, parasthesiae. No bowel or 
bladder
incontinence or retention. Denies difficulty with gait.
 
On general review of systems, the patient denies recent fever, 
chills, night sweats, or recent weight changes. Denies cough,
shortness of breath, chest pain or tightness, palpitations. 
Denies nausea, vomiting, diarrhea, constipation.  Denies 
dysuria,
or recent change in bowel or bladder habits.  Denies 
arthralgias,
myalgias, or rash.

 
Past Medical History:
Hypertension
Prediabetes
Hyperlipidemia                              
Osteopenia

 
Social History:
___
Family History:
Mother had seizures 
 
Physical Exam:
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, Mallampati class IV. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented self, hospital, date. Able to
relate history without difficulty. Attentive, able to name ___
backward without difficulty. Language is fluent with intact
repetition and comprehension. Normal prosody. There were no
paraphasic errors. Able to name both high and low frequency
objects.  Able to read without difficulty. No dysarthria. Able 
to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI. L torsional
nystagmus on left lateral endgaze. Normal saccades. VFF to
confrontation.
V: Facial sensation intact to light touch, cold, pinprick.
VII: L facial droop. Symmetric on activation but delayed on L.
Able to separate lips on L when lips pursed. Unable to puff out
cheeks.  Symmetric forehead wrinkle.
VIII: Hearing intact to finger-rub on R; not on L. L ear intact
to finger snapping
IX, X: Unable to visualize palate
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch, pinprick, temperature
throughout. Joint position sense intact in b/l great toes. No
extinction to DSS.  Mild sway forward on Romberg but self
corrects.

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     0
R   2     2      2      2     0 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. No dysmetria on FNF or HKS
bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem.

 
Pertinent Results:
___ 10:00PM   %HbA1c-6.4* eAG-137*
___ 10:08PM   GLUCOSE-116* CREAT-0.5 NA+-133* K+-4.2 
CL--101 TCO2-24
___ 10:00PM   %HbA1c-6.4* eAG-137*
___ 10:26AM BLOOD Triglyc-94 HDL-69 CHOL/HD-2.9 LDLcalc-114
___ 10:26AM BLOOD Triglyc-94 HDL-69 CHOL/HD-2.9 LDLcalc-114
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with a PMH of hypertension, 
hyperlipidemia, prediabetes presenting with vertigo and possible 
left facial droop with no stroke on MRI

#Possible TIA
#Vertigo
Physical exam was concerning for UMN face weakness although 
family was not entirely convinced her face appeared different. 
She had a mild headache without migrainous features. She did 
have some torsional nystagmus on left gaze and corrective 
saccade (more pronounced on head thrust from left to right than 
right to left). She had a positive ___ to the right. 
There were no vesicles in her ear or ear pain. MRI showed no 
stroke. TTE showed no cardiac etiology of this event. A ziopatch 
was placed and is to be followed up as outpatient. LDL was 114 
and A1c was 6.4. Her vertigo is felt to be peripheral given 
peripheral findings on exam. The facial droop is of unknown 
chronicity and there was certainly symmetric activation. Given 
her risk factors, she was treated as TIA, but this was not 
entirely clear. Given her peripheral findings on exam, do think 
she has peripheral vestibulopathy. Migraine felt to be less 
likely given no history and headache without migrainous 
features. Multiple cranial neuropathies discussed but given 
facial "weakness" of unknown chronicity without LMN pattern, did 
not warrant work-up at this time. Patient is a resident in 
___ and should continue her work-up and treatment in ___ 
with her primary care provider and referred to a neurologist. 
Patient should have possible seizures worked up by outside 
neurologist given her history of "syncopal events" (illicited in 
ROS and not an active issue that brought her to hospital) 
unexplained by other etiologies (prior negative cardiac 
work-up). Patient's being discharged on Plavix instead of 
aspirin given aspirin allergy as prevention for future stroke as 
well as switched to atorvastatin so she will perhaps be more 
compliant. Patient is also being discharged with meclizine as 
needed and outpatient ___ Rx for peripheral vertigo.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Bystolic (nebivolol) 2.5 mg oral DAILY 
2. B-12 DOTS (cyanocobalamin (vitamin B-12)) 500 mcg oral DAILY 
3. losartan-hydrochlorothiazide 50-12.5 mg oral DAILY 
4. Denosumab (Prolia) 60 mg SC EVERY 6 MONTHS 
5. Vitamin D2 (ergocalciferol (vitamin D2)) 50,000 unit oral 
EVERY 2 WEEKS 
6. Famotidine 20 mg PO DAILY:PRN Reflux 
7. Pravastatin 10 mg PO QPM 

 
Discharge Medications:
1.  Atorvastatin 20 mg PO QPM 
RX *atorvastatin 20 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*3 
2.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 
3.  Meclizine 12.5 mg PO TID as needed for dizziness  
RX *meclizine 12.5 mg 1 tablet(s) by mouth three times a day 
Disp #*30 Tablet Refills:*0 
4.  B-12 DOTS (cyanocobalamin (vitamin B-12)) 500 mcg oral DAILY 
 
5.  Bystolic (nebivolol) 2.5 mg oral DAILY  
6.  Denosumab (Prolia) 60 mg SC EVERY 6 MONTHS  
7.  Famotidine 20 mg PO DAILY:PRN Reflux  
8.  losartan-hydrochlorothiazide 50-12.5 mg oral DAILY  
9.  Pravastatin 10 mg PO QPM  
10.  Vitamin D2 (ergocalciferol (vitamin D2)) 50,000 unit oral 
EVERY 2 WEEKS  
11.Outpatient Physical Therapy
Vestibular Physical Therapy 
Peripheral Vestibulopathy 
ICD-10 Diagnosis Code ___.9. 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# TIA
# Peripheral Vestibulopathy 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ were hospitalized due to symptoms of strange sensation, 
dizziness, and weakness on the left side of your face. ___ had 
an MRI which showed ___ did not have a stroke.

___ face weakness may have been from a transient ischemic attack 
which is a mini stroke which does not show up on MRI. 

In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
-Hypertension

Your dizziness was evaluated and thought to be from a peripheral 
vestibulopathy or a problem with your balance nerve. This can 
resolve over time on its own or with the help of physical 
therapy.

We are changing your medications as follows:
ADDING: Clopidogrel 75 mg PO DAILY (for stroke prevention)
ADDING: Meclizine 12.5 mg PO TID as needed for dizziness 
STOPPING Pravastatin (due to muscle symptoms) and ADDING 
ATORVASTATIN 20 mg daily for stroke prevention 

Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If ___ experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
___
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___